### PR TITLE
Add proof that scalar multiplication never doubles

### PR DESCRIPTION
**Pull request by miriampolzer**
This proves that scalar multiplication never reaches a doubling case when using signed fixed-length limbs to encode the scalar.

We will use this in P256 but it is a general version that can be used for more curves.

### CODE REVIEW

File: src/Arithmetic/Signed.v [hunk 1]
```diff
@@ -0,0 +1,453 @@
...
+  n < length l -> skipn n l = nth n l d :: skipn (S n) l.
+Proof.
+  induction l; intros n d Hlen; [cbn in *; lia|].
+  destruct n; cbn in *; try reflexivity.
+  apply IHl. lia.
+Qed.
+
+(* Little endian positional evaluation of a number. E.g. eval_positional 10 [1,2] = 21. *)
+Definition eval_positional B : list Z -> Z :=
+  fold_right (fun a s => a + B*s) 0.
```
Comment (andres-erbsen) [inline src/Arithmetic/Signed.v]: `positional` ?

File: src/Arithmetic/Signed.v [hunk 2]
```diff
@@ -0,0 +1,453 @@
...
+  unfold remove_suffix_zeroes.
+  rewrite last_rev_hd. rewrite <- (rev_involutive num) at 1.
+  induction (rev num) as [|a l IHl].
+  { intros Heval Hhd. apply Heval. reflexivity. }
+  { intros Heval. destruct (Z.eq_dec a 0) as [Heq|Hneq]; subst.
+    { cbn. apply IHl. intros Hl. apply Heval. cbn. rewrite eval_positional_app.
+      cbn. lia. }
+    { destruct a; cbn; lia. }
+  }
+Qed.
```
Comment (andres-erbsen) [inline src/Arithmetic/Signed.v]: this is fine, but the following potentially simplification comes to mind:
- if an encoding evaluates to 0 with zeros removed, it ti still evaluates to 0 originally (proof by eval of app?)
- I think the stated lemmas could be proven by posing the one I suggested and then `intuition lia`

File: src/Arithmetic/Signed.v [hunk 3]
```diff
@@ -0,0 +1,453 @@
...
+Local Open Scope list_scope.
+From coqutil Require Import Byte Word.Naive Word.Interface Word.LittleEndianList.
+Require Import bedrock2.BasicC64Semantics.
+Require Import bedrock2.ZnWords Coq.ZArith.ZArith Lia.
+From coqutil Require Import Tactics.Tactics Word.Properties Datatypes.List.
+Import List.ListNotations.
+
+Open Scope nat_scope.
+Open Scope Z_scope.
+Open Scope list_scope.
```
Comment (andres-erbsen) [inline src/Arithmetic/Signed.v]:
```suggestion
#[local] Open Scope nat_scope.
#[local] Open Scope Z_scope.
#[local] Open Scope list_scope.
```

**Review by andres-erbsen — COMMENTED** [review]
How about something like the following? If yes, then feel free to ignore the inline comments below.


```coq
Require Import Coq.ZArith.ZArith Lia.
Require Import Crypto.Util.ZUtil.Modulo.
#[local] Open Scope Z_scope.

Lemma fixed_window_no_doubling N B (lo hi : Z)
  (n_large : B < N) (n_mod_B_large : B <= 2*(N mod B))
  (lo_bounded : -B + 2 <= 2*lo <= B) (hi_bounded : 0 < lo + B * hi < N)
  : (B * hi) mod N <> lo mod N.
Proof.
  rewrite Z.cong_iff_0, Z.mod_divide by lia; intros [q].
  assert (q = 1) by (assert (q = 0 \/ q = 1) by nia; assert (hi <> 0); nia); subst q.
  assert ((2*N - hi*(2*B)) mod (2*B) <= B - 2) by (rewrite Z.mod_small; lia).
  rewrite <-Zminus_mod_idemp_r, Z_mod_mult, Z.sub_0_r, Zmult_mod_distr_l in *. lia.
Qed.

Lemma fixed_window_no_doubling' N w (lo hi : Z)
  (w_pos : 0 < w) (n_large : 2^w < N) (n_mod_2w_large : 2^(w-1) <= N mod 2^w)
  (lo_bounded : -2^w + 2 <= 2*lo <= 2^w) (hi_bounded : 0 < lo + 2^w * hi < N)
  : (2^w * hi) mod N <> lo mod N.
Proof.
  assert (2^w = 2*2^(w-1)) by (rewrite <-(Z.succ_pred w), Z.pow_succ_r, <-Z.sub_1_r at 1; lia).
  apply fixed_window_no_doubling; lia.
Qed.

Import List.

Section Eval.
Context B (eval := fold_right (fun a s => a + (B)*s) 0).

Lemma eval_0_inv_app xs ys
  (xs_bounds : Forall (fun x => -B + 2 <= 2*x <= B) xs)
  (ys_bounds : Forall (fun x => -B + 2 <= 2*x <= B) ys)
  (eval_bound : eval (xs++ys) = 0) : eval xs = 0 /\ eval ys = 0.
Proof.
  induction xs_bounds as [|x xs], ys_bounds as [|y ys];
    cbn [app fold_right eval] in *; rewrite ?app_nil_r in *; try lia.
  case (Z.eqb_spec (eval (xs ++ y :: ys)) 0); nia.
Qed.

Lemma bounded_eval_inv_app N xs ys
  (xs_bounds : Forall (fun x => -B + 2 <= 2*x <= B) xs)
  (ys_bounds : Forall (fun x => -B + 2 <= 2*x <= B) ys)
  (eval_bound : 0 < eval (xs++ys) < N) : 0 <= eval ys < N.
Proof.
  induction xs_bounds as [|x xs], ys_bounds as [|y ys];
    cbn [app fold_right eval] in *; rewrite ?app_nil_r in *; try lia.
  case (Z.eqb_spec (eval (xs ++ y :: ys)) 0) as [e|]; [|nia].
  repeat match goal with H : eval (_++_) = 0 |- _ =>
    apply eval_0_inv_app in H as []; eauto using Forall_cons; [] end.
  cbn [eval fold_right] in *. lia.
Qed.
End Eval.
```
